reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([O:6]/[C:5](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],74.78729194989283
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12],104.230881975984
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]=[C:2]1[O:3][C:4]([H:8])([H:9])[C-:5]=[N+:6]1[H:7],83.8756506835214
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4][H:12])[O:5][H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],4.471718046770306
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5]([C:4]1([H:13])[C:2]([H:10])([H:16])[C:3]1([H:11])[H:12])([H:14])[H:15])([H:7])([H:8])[H:9],127.042714185109
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[N:5]/[H:13])/[C:6]1=[N:7]/[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],84.71706492513499
[C:1]([C:2]([H:10])([H:11])[H:15])([H:7])([H:8])[H:9].[C:3](=[N:4][O:5][H:12])=[C:6]([H:13])[H:14]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],75.2423215269279
[H:9][H:10].[N:1]#[C:2][C:3](=[O+:4][C:5](=[C:6]=[N-:7])[H:11])[H:8]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],10.069960251288919
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:8])[H:9].[H:7][H:11],106.94567487271999
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2]([H:9])[H:11])[H:8].[O:3]=[C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])[H:10],83.76694316800659
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:5](\[O:6][H:8])[H:12])[H:10])([C:3](=[O:4])[H:11])([H:7])[H:9],77.5437124903765
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O+:1](=[C-:2][H:7])[C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9],112.589470704336
[C:1]([C:2]([C:3]([O-:4])=[C+:5][C:6](=[C:7]([H:13])[H:15])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],24.712035877805604
[C:3]([O:4][H:11])(=[C:5]=[C:6]([H:7])[H:12])[H:10].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],31.87918135503834
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15]>>[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[O:4][C:5]([H:12])([H:13])[C:6]([H:8])([H:14])[C@@:7]12[H:15])[H:9],89.15583818000549
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5](=[O:6])[H:14])[H:13],62.0840739905128
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13],85.4964289584723
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([C:6]([H:14])([H:15])[H:16])[H:11],82.96633036506371
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([c:2]1[c:3]([H:9])[o:4][c:6]([H:10])[c:5]1[H:8])[H:7],51.936185733028495
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([O:3][H:11])([C:6]#[C:7][H:15])[H:13])([H:8])([H:9])[H:10].[C:4]([O:5][H:14])[H:12],83.17937771045659
[C:1]([C:2][C@@:4]([C:3]([H:11])([H:12])[H:13])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],4.486227958805003
[N:1]#[C:2][C:5]([C:4]([C:3](=[O:6])[H:7])([H:8])[H:9])([H:10])[H:11]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,119.93948083446742
[O-:1][C:2](=[C+:3][N:5]([C:4]([H:7])([H:8])[H:9])[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],53.658420767656594
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:5]=[N:6][H:7].[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11],73.7472081357908
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[H:9][H:12].[N:1](=[C:2](\[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:11])[H:10])\[H:8],121.025652235856
